US07718808B2
Methyl isophthalate (2.00 g, 11.1 mmol) was dissolved in THF (60 mL), and a 2.0 mol/L solution of dimethylamine (11.1 ml, 22.2 mmol) in methanol, EDC hydrochloride (4.27 g, 22.2 mmol) and 1-hydroxybenzotriazole monohydrate (3.40 g, 22.2 mmol) were added thereto, followed by stirring at room temperature for 2 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent was distilled away under reduced pressure. The resulting residue was purified through silica gel column chromatography (hexane:ethyl acetate=1:3) to afford methyl 3-(N,N-dimethylcarbamoyl)benzoate (2.30 g, 100%).

reactant | Methyl isophthalate | 11.1 mmol, 2.00 g | C(C1=CC(C(=O)[O-])=CC=C1)(=O)OC
reactant | dimethylamine | 22.2 mmol, 11.1 ml | CNC | C2H7N
reactant | EDC hydrochloride | 22.2 mmol, 4.27 g | CCN=C=NCCCN(C)C.Cl
reactant | 1-hydroxybenzotriazole monohydrate | 22.2 mmol, 3.40 g | O.ON1N=NC2=C1C=CC=C2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
product | methyl 3-(N,N-dimethylcarbamoyl)benzoate | 2.30 g, 100% | CN(C(=O)C=1C=C(C(=O)OC)C=CC1)C | C11H13NO3
